US07442791B2
A solution of 1.1 g (3.37 mmol) of trans-4-[(4-chloro-phenoxycarbonyl)-methyl-amino]-cyclohexanecarboxylic acid methyl ester was dissolved in 25 mL of dioxane and treated at 0° C. with 6.7 mL (6.70 mmol, 2 eq) of aqueous 1M NaOH. After 3 h at RT, the reaction was poured into aqueous 10% KHSO4/Et2O (3×). The organic phases were washed with aqueous 10% NaCl solution and dried over Na2SO4 to give 0.97 g (92%) of trans-4-[(4-chloro-phenoxycarbonyl)-methyl-amino]-cyclohexanecarboxylic acid, MS: 310 (M−H−, 1Cl).

reactant | trans-4-[(4-chloro-phenoxycarbonyl)-methyl-amino]-cyclohexanecarboxylic acid methyl ester | 3.37 mmol, 1.1 g | COC(=O)[C@@H]1CC[C@H](CC1)N(C)C(=O)OC1=CC=C(C=C1)Cl | C16H20ClNO4
reactant | NaOH | 1M | [OH-].[Na+]
reactant | KHSO4 Et2O | OS(=O)(=O)[O-].[K+].CCOCC
solvent | dioxane | 25 mL | O1CCOCC1 | C4H8O2
product | trans-4-[(4-chloro-phenoxycarbonyl)-methyl-amino]-cyclohexanecarboxylic acid | 0.97 g, 92% | ClC1=CC=C(OC(=O)N([C@@H]2CC[C@H](CC2)C(=O)O)C)C=C1 | C15H18ClNO4
